Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vasotec
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of CAD s/p MI and balloon angioplasty ___, s/p 
PPM/ICD, systolic heart failure (unknown EF), ___ (baseline Cr 
2.1) who presented to ___ after experiencing ___ 
chest pain ___ afternoon. She received 1u pRBCs at 9AM that 
day at ___ for her chronic anemia.  
At the OSH she was found to have a BNP >30,000, Troponin 0.04, 
Cr 2.0 and was saturating at 85% on room air. She was 
transferred to ___ for further management.  
In the ED, initial vitals were: T 98.9, 92, 124/76, 22, 97% RA  
- Exam notable for NAD, slight wheezing and crackles in 
bilateral lower lobes (worse on right).  
- Labs notable for WBC 3.4k, Hgb 9.0, ___ 38000 (up from 
prior of ___, Cr 2.1 (stable from baseline), K 3.7, Mg 1.9, 
Trop 0.05 (from 0.04 at OSH).  
- Imaging: CXR w/ mild vascular congestion, interstitial edema, 
moderate layering bilateral effusions, moderate cardiomegaly.  
Patient was given:  
- Lasix 40mg IV at 0144 AM  
On the floor, patient is not complaining of any chest pain or 
shortness of breath.  She has noted increased lower extremity 
edema and fatigue. Does not know her "dry weight".  
ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria.  
 
Past Medical History:
- H/o systolic heart failure (last ___ @ ___ was in ___, 
followed by Dr. ___ last ___ ___ EF 25% 
with diastolic dysfunction
- H/o apical LV aneurysm (previously on Coumadin)  
- H/o LV rupture secondary to catheterization ___
- H/o CAD s/p MI and balloon angioplasty ___
- S/p PPM/ICD ___
- ___ (baseline creatinine 2.1)  
- Hypertension  
- Hyperlipidemia  
- Chronic anemia newly transfusion dependent
- GERD  
- H/o herpes zoster  
- S/p total hip replacement x 2
 
Social History:
___
Family History:
Non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vital Signs: T 98.2, 142/64, 68, 22, 97% on 2L NC  
Weight: 43.0 kg (94.8 lbs) standing weight on admission.  
General: Alert, oriented, elderly female in no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: JVP to earlobe at 90 degrees  
CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur
Lungs: Diffusely rhonchorous and wheezy, crackles at bilateral 
bases. 
GU: No foley  
Ext: Warm, well perfused, 2+ lower extremity edema up to level 
of sacrum.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities.  

DISCHARGE PHYSICAL EXAM:
========================
VS: AF T97.5 BP 110-117/48-53 HR ___ RR ___ 93 on RA
Weight: 38.7kg
GENERAL: WDWN elderly female in NAD. Oriented X 3.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink. MMM. 
NECK: Supple with JVP nadir 9mmg Hg 45 degrees
CARDIAC: RRR normal S1, S2. Tricuspid regurgitation LLSB; 
systolic MR murmur at apex. No thrills, lifts. No S3 or S4.  
LUNGS: Respirations were unlabored, no accessory muscle use. L 
base inspiratory crackles.
ABDOMEN: Soft, NTND. +BS
EXTREMITIES: trace edema to mid shin bilaterally 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: bilateral 2+ radial 2+ carotid 2+ DP
NEURO: CNII-XII intact, ___ strength upper/lower extremities.  
 
Pertinent Results:
ADMISSION LABS:
==============
___ 12:50AM BLOOD WBC-3.4* RBC-3.36* Hgb-9.0* Hct-28.5* 
MCV-85 MCH-26.8 MCHC-31.6* RDW-15.5 RDWSD-47.0* Plt ___
___ 12:50AM BLOOD Neuts-68.6 Lymphs-16.6* Monos-9.0 Eos-4.9 
Baso-0.6 Im ___ AbsNeut-2.36 AbsLymp-0.57* AbsMono-0.31 
AbsEos-0.17 AbsBaso-0.02
___ 12:50AM BLOOD ___ PTT-28.0 ___
___ 12:50AM BLOOD Glucose-92 UreaN-68* Creat-2.1* Na-139 
K-3.7 Cl-103 HCO3-20* AnGap-20
___ 12:50AM BLOOD CK(CPK)-171
___ 12:50AM BLOOD CK-MB-3 ___
___ 12:50AM BLOOD cTropnT-0.05*
___ 07:15AM BLOOD CK-MB-3 cTropnT-0.05*
___ 12:50AM BLOOD Calcium-8.9 Phos-2.9 Mg-1.9

INTERVAL LABS:
=============
___ 07:15AM BLOOD WBC-4.5 RBC-3.20* Hgb-8.8* Hct-27.2* 
MCV-85 MCH-27.5 MCHC-32.4 RDW-15.6* RDWSD-46.9* Plt ___
___ 07:38AM BLOOD WBC-5.4 RBC-2.92* Hgb-7.9* Hct-25.2* 
MCV-86 MCH-27.1 MCHC-31.3* RDW-15.9* RDWSD-48.6* Plt ___
___ 06:40AM BLOOD WBC-4.2 RBC-2.84* Hgb-7.9* Hct-25.5* 
MCV-90 MCH-27.8 MCHC-31.0* RDW-17.4* RDWSD-51.6* Plt ___
___ 06:50AM BLOOD Neuts-72.7* Lymphs-9.6* Monos-9.8 
Eos-7.1* Baso-0.4 Im ___ AbsNeut-3.78 AbsLymp-0.50* 
AbsMono-0.51 AbsEos-0.37 AbsBaso-0.02
___ 06:44PM BLOOD Glucose-161* UreaN-69* Creat-2.3* Na-141 
K-3.8 Cl-102 HCO3-21* AnGap-22*
___ 07:38AM BLOOD Glucose-85 UreaN-64* Creat-2.0* Na-142 
K-4.0 Cl-103 HCO3-25 AnGap-18
___ 01:35PM BLOOD Glucose-127* UreaN-57* Creat-2.0* Na-141 
K-3.8 Cl-97 HCO3-30 AnGap-18
___ 03:02PM BLOOD Glucose-134* UreaN-63* Creat-1.9* Na-139 
K-4.0 Cl-96 HCO3-31 AnGap-16
___ 06:40AM BLOOD Glucose-75 UreaN-63* Creat-1.9* Na-142 
K-4.1 Cl-95* HCO3-32 AnGap-19
___ 07:15AM BLOOD ALT-61* AST-67* CK(CPK)-161 AlkPhos-129* 
TotBili-0.8
___ 02:51PM BLOOD ALT-39 AST-21 LD(LDH)-280* AlkPhos-104 
TotBili-0.8
___ 02:51PM BLOOD Albumin-3.1* Calcium-8.4 Phos-3.3 Mg-2.3
___ 06:45AM BLOOD Calcium-8.6 Phos-2.6* Mg-2.1 
UricAcd-13.2*
___ 07:15AM BLOOD Calcium-8.9 Phos-2.8 Mg-1.8 Iron-78
___ 07:15AM BLOOD calTIBC-407 VitB12-300 Ferritn-56 TRF-313
___ 07:15AM BLOOD TSH-7.6*
___ 07:15AM BLOOD Free T4-1.4

DISCHARGE LABS:
==============
___ 06:40AM BLOOD WBC-4.6 RBC-2.88* Hgb-8.2* Hct-26.3* 
MCV-91 MCH-28.5 MCHC-31.2* RDW-17.9* RDWSD-54.1* Plt ___
___ 06:40AM BLOOD Glucose-81 UreaN-60* Creat-1.9* Na-141 
K-4.4 Cl-95* HCO3-28 AnGap-22*
___ 06:40AM BLOOD Calcium-8.5 Phos-3.1 Mg-2.0

STUDIES/REPORTS:
===============
___ CXR
Comparison to ___.  Newly appeared mild to moderate 
left pleural effusion.  No overt pulmonary edema.  Left basilar 
atelectasis.  Mild cardiomegaly.  Stable position of the left 
pectoral pacemaker. 

___ CXR
1. Mild pulmonary vascular congestion with mild associated 
interstitial edema. 
2. Moderate layering pleural effusions, likely bilateral. 
3. Retrocardiac airspace opacity may represent atelectasis or 
consolidation, depending upon the clinical circumstances. 
4. Moderate cardiomegaly. 
  
___ ___ Dr. ___
LVEF 25, glogal hypokinesis, suggestion of diastolic 
dysfunction, 2+ MR, severely elevated PASP at 68 mmHg, estimated 
RAP > 15 mmHg, 3+ TR, IVC 2.5 cm.

___ CORONARY ANGIOGRAM
1. Coronary angiography revealed patent sites of PTCA in the LAD 
and D1. The mid LAD had a 40% lesion and the origin of D2 had a 
70% stenosis with slightly delayed flow in the LAD system. There 
was no significant epicardial disease in the LCx or RCA.  
2. Right heart catheterization revealed equalization and 
elevation of all filling pressures consistent with tamponade 
physiology. RA was 29 mmHg, PA 44/31 mmHg, PCWP 32 mmHg, LVEDP 
30 mmHg. Emergent echocardiogram in the catheterization 
laboratory was consistent with tamponade.  
3. Left ventriculography revealed severe hypokinesis of the 
anterobasal and anterolateral walls with dyskinesis of the apex. 
There was 2+ mitral regurgitation and no evidence of dye 
extravasation into the pericardium. The LVEF was 25%.  
4. Emergent surgical consultation was obtained, and the patient 
was taken emergently to the O.R. for repair of presumed LV 
perforation.  

MICRO:
=====
___ 12:20 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

___ 4:40 pm THROAT FOR STREP

                            **FINAL REPORT ___

   R/O Beta Strep Group A (Final ___: 
      NO BETA STREPTOCOCCUS GROUP A FOUND. 

 
Brief Hospital Course:
___ with PMHx of CAD s/p MI and balloon angioplasty c/b LV 
rupture ___, s/p PPM/ICD ___, hx of systolic heart failure 
(EF 25% ___ outside ___ with diastolic dysfunction, 
history of apical aneurysm previously on AC, ___ (baseline Cr 
2), chronic anemia newly transfusion dependent, who presented to 
___ ED with chest pain hypoxic with elevated BNP found to 
have acute on chronic systolic heart failure exacerbation in the 
setting of a blood transfusion at ___ earlier in the day. 
Patient was diuresed with lasix boluses and transitioned to oral 
diuretic 20mg torsemide daily with discharge weight 38.7kg.

HOSPITAL COURSE BY PROBLEM LIST:
===============================
# Acute on Chronic Systolic Heart Failure: Most likely worsened 
acutely by 1u pRBC transfusion for chronic anemia on day of 
admission. In reviewing her outpatient records, it does appear 
that her diuretic dosing has been changing/increasing over the 
past several weeks. She is currently on torsemide 10mg PO daily, 
and Entresto dose was increased a few weeks ago. Troponins flat 
at 0.05/0.05 and chest pain was minor, completely resolved on 
admission. TSH slightly elevated at 7.6, but no obvious signs of 
hypothyroidism, ft4 normal likely subclinical hypothyroidism. 
Unlikely dietary indiscretion (sister cooks all meals without 
any added salt, strictly adheres to 1600mg sodium/day). On 
admission with significant lower extremity edema, elevated JVP, 
with BNP at highest level ever. She was diuresed with lasix 
boluses with marked improvement in volume status, transitioned 
to PO torsemide 20mg daily for her oral diuretic with dry weight 
of 38.7kg. Discharged on Sacubitril-Valsartan (49mg-51mg) 1 TAB 
PO BID and Carvedilol 12.5mg PO BID.  Spironolactone was 
discontinued given hypotension. 

# Cough/Sore throat: Patient with cough and sore throat, likely 
secondary to atelectasis and heart failure exacerbation. 
Improved with diuresis, incentive spirotomy, and mobilization. 
Given sore throat, rapid strep culture ordered and was negative. 
Patient without signs or symptoms of acute infection. 

# Left First Toe Gout: Patient received .6mg colchicine x1 dose 
for left toe gout with resolution during admission. Uric acid 
level 13.2.

# H/o CAD s/p MI and balloon angioplasty ___: continued on 
aspirin 81mg daily, but held fluvastatin in house given non 
formulary. 

# ___ Stage IV: (baseline creatinine ~2) At baseline this 
admission, likely cardiorenal in origin.

# Hypertension: Dose reduced sacubutril/valsartan and carvedilol 
during diuresis; BP at goal prior to discharge on inpatient 
regimen. Did not give spironolactone this admission given 
concern for hypotension during diuresis.

# Chronic anemia: Felt to be secondary to anemia of chronic 
disease and ___. Received 1U pRBCs on ___ morning of 
admission, complicated by acute decompensation of heart failure. 
Recommend increasing home diuretics (double PO dose) around the 
time of transfusion when/if she has pRBCs transfused as 
outpatient. Patient received 3 days of IV iron in house. 

=================================
TRANSITIONAL ISSUES
=================================
Discharge Weight: 38.7kg
Discharge Cr: 1.9
Discharge Hbg: 8.2
CHANGED MEDICATIONS: Carvedilol 15.625mg BID to Carvedilol 
12.5mg BID, Torsemide 10mg QD to Torsemide 20mg QD, 
Sacubitril-Valsartan (73mg-79mg) BID to Sacubitril-Valsartan 
(49mg-51mg) BID.
DISCONTINUED MEDICATIONS: Valtessa, spirinolactone
HELD MEDICATIONS: Fluvastatin Sodium 80 mg QPM as non formulary 
- Patient to be seen by cardiology on ___, please recheck 
CBC, chem-10 and recheck weight; up or downtitrate torsemide as 
needed (discharged with 20 mg daily). Of note we stopped 
patient's spironolactone due to hypotension; patient also had 
her entresto dose decreased to Sacubitril-Valsartan (49mg-51mg) 
BID. 
- Per patient and family request, they wish to defer epo 
injections due to stroke risk in future for anemia; however 
patient reports she is amenable to talking to renal in future to 
discuss risk/benefit of epo for anemia in ___
- Patient's nephrologist switched from Dr. ___, only 
seen once) to Dr. ___ at ___ due to 
transportation considerations of family
- Patient discharged with home telehealth monitoring, physical 
therapy, patient advised to call cardiologist or PCP if weight 
increases > 3 lbs in a day. 
- During admission, had baseline MOCA performed score ___ with 
deficits in memory and visual/spatial categories. PCP to 
___ MOCA if patient and/or family concerned for memory 
loss.
- Recommend increasing home diuretics (doubling oral dose) 
around the time of transfusion when/if she has pRBCs transfused 
as outpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 
2. Carvedilol 15.625 mg PO BID 
3. Aspirin EC 81 mg PO DAILY 
4. Torsemide 10 mg PO DAILY 
5. Ezetimibe 10 mg PO QOD 
6. Fluvastatin Sodium 80 mg oral QPM 
7. nizatidine 150 mg oral BID 
8. Spironolactone 12.5 mg PO 3X/WEEK (___) 
9. Sacubitril-Valsartan (49mg-51mg) 1 TAB PO BID 
10. Veltassa (patiromer calcium sorbitex) 8.4 gram oral DAILY 
11. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN CHEST PAIN 
12. pseudoephedrine-guaifenesin 60-600 mg oral BID:PRN 
13. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
2.  Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Aspirin EC 81 mg PO DAILY  
4.  Ezetimibe 10 mg PO QOD  
5.  Fluvastatin Sodium 80 mg oral QPM  
6.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN CHEST PAIN  
7.  nizatidine 150 mg oral BID  
8.  pseudoephedrine-guaifenesin 60-600 mg oral BID:PRN  
9.  Sacubitril-Valsartan (49mg-51mg) 1 TAB PO BID 
RX *sacubitril-valsartan [Entresto] 49 mg-51 mg 1 tablet(s) by 
mouth twice daily Disp #*60 Tablet Refills:*0 
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Acute on Chronic Systolic Heart Failure 

Secondary Diagnosis:
L toe gout flare
___
Anemia of Chronic Disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

___ were admitted to the cardiology service because ___ felt 
some chest discomfort after getting your blood transfusion.  ___ 
had an acute worsening of your heart failure.  We gave ___ 
diuretics through your IV initially to help ___ get rid of extra 
fluid.  We then transitioned ___ an oral pill diuretic 
(torsemide) to maintain your weight and fluid balance.  

At discharge ___ weighed 83.5 pounds.  This is your new "dry" 
weight.  Please weight yourself daily after urinating in the 
morning in light weight clothing and call your Cardiologist's 
office (Dr. ___ if your weight increases by more than 3 pounds 
in one day or 5 pounds in 3 days.  Please limit your salt intake 
to <2g per day and limit your fluid intake to 2L per day.

Dr. ___ will call ___ after discharge to schedule 
a follow up appointment.

___ have an appointment on ___ at 1pm with Dr. 
___ have an appointment on ___ at 1pm with Dr. 
___ doctor at ___

YOUR DISCHARGE DAILY MEDICATION LIST:
Carvedilol 12.5mg daily
Torsemide 20mg daily
Sacubitril-Valsartan (49mg-51mg) twice per day 
Fluvastatin Sodium 80 mg at night (as ___ were taking before)
Aspirin 81mg daily (as ___ were taking before)
Ezitimibe 10mg every other day (as ___ were taking before)
Vitamin D daily (as ___ were taking before)
Nizatidine 150 mg twice daily (as ___ were taking before)

It was a pleasure taking care of ___,

Your ___ Cardiac Care Team

 
Followup Instructions:
___